US06458798B1
N-(2-Amino-5,6,7,8-tetrahydroquinazoline-4-yl)-N-(cyclohexylmethyl)amine
A mixture of 4-chloro-5,6,7,8-tetrahydroquinazoline-2-ylamine (107 mg, 0.58 mmol), triethylamine (221 mg, 2.18 mmol), cyclohexylmethylamine (132 mg, 1.17 mmol) and n-butanol (3 ml) was reacted for 4 hours at 80-90° C. According to the post-treatment of Example 1, the object compound was obtained (102 mg, 67.9%).

reactant | 4-chloro-5,6,7,8-tetrahydroquinazoline-2-ylamine | 0.58 mmol, 107 mg | ClC1=NC(=NC=2CCCCC12)N | C8H10ClN3
reactant | triethylamine | 2.18 mmol, 221 mg | C(C)N(CC)CC | C6H15N
reactant | cyclohexylmethylamine | 1.17 mmol, 132 mg | C1(CCCCC1)CN | C7H15N
solvent | n-butanol | 3 ml | C(CCC)O | C4H10O
product | N-(2-Amino-5,6,7,8-tetrahydroquinazoline-4-yl)-N-(cyclohexylmethyl)amine | NC1=NC=2CCCCC2C(=N1)NCC1CCCCC1 | C15H24N4
